US05364931
(S)-2-Amino-1-phenylbut-3-ene hydrochloride
A solution of 5.00 g (20.21 mmol) of (S)-2-(tert-butoxycarbonylamino-1-phenylbut-3-ene [J. R. Luly et al., J. Org. Chem. 52, 1487 (1987)] in 100 ml of a 4N solution of gaseous hydrogen chloride in anhydrous dioxane was stirred at room temperature for 30 min. 15 ml of toluene were then added and the mixture was concentrated in vacuo. This process was repeated twice more, then the residue was triturated with a little ether, filtered off with suction and dried in a high vacuum over KOH. 3.69 g (99% of theory) of the title compound were obtained as colourless crystals.

reactant | tert-butoxycarbonylamino-1-phenylbut-3-ene | C(C)(C)(C)OC(=O)NC(CC=C)C1=CC=CC=C1 | C15H21NO2
reactant | hydrogen chloride | Cl | ClH
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-1-phenylbut-3-ene hydrochloride | Cl.N[C@@H](CC1=CC=CC=C1)C=C | InChI=1S/C10H13N.ClH/c1-2-10(11)8-9-6-4-3-5-7-9;/h2-7,10H,1,8,11H2;1H/t10-;/m1./s1
